US05741937
A solution of 16.8 g of 85% strength aqueous potassium hydroxide solution and 1,500 ml of water was charged to a 31 stainless-steel autoclave, 294 g of 2-methylcyclopentanone and 421.8 g of 4-chlorobenzaldehyde were added, and the mixture was then heated to 120° C. under the intrinsic pressure. Stirring was subsequently carried out at this temperature for 3 hours. After cooling to room temperature, the finely particulate yellow product was filtered off with suction, washed to neutrality with water and then dried in a vacuum oven at 60° C. In this way 658.5 g of 2-methyl-5-(4-chlorobenzylidene)-cyclopentanone (93.1% pure) were obtained. This corresponds to a yield of 93% of theory.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-methylcyclopentanone | 294 g | CC1C(CCC1)=O | C6H10O
reactant | 4-chlorobenzaldehyde | 421.8 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
solvent | water | 1,500 ml | O | H2O
product | 2-methyl-5-(4-chlorobenzylidene)-cyclopentanone | 658.5 g, 93.1% | CC1C(C(CC1)=CC1=CC=C(C=C1)Cl)=O | C13H13ClO
